US06777557B2
1-[2-(1-pyrrolidinyl)-2-oxoethyl]-2-benzylpyridinium bromide
2-Benzylpyridine (1.0 g, 5.9 mmole) and 1-(bromoacetyl)pyrrolidine (1.134 g, 5.9 mmole) were heated with stirring in an oil bath at 98° C. for 2 hr. The viscous mixture was dissolved in 10 mL 4:1 acetonitrile-methanol and stored at 4° C. for 2 days. The crystals which separated were filtered out to give 1.96 g of crude product which was recrystalized from methanol-acetonitrile to give 1.45 g of the title compound, mp 224-226° C.

reactant | 2-Benzylpyridine | 5.9 mmole, 1.0 g | C(C1=CC=CC=C1)C1=NC=CC=C1 | C12H11N
reactant | 1-(bromoacetyl)pyrrolidine | 5.9 mmole, 1.134 g | BrCC(=O)N1CCCC1 | C6H10BrNO
solvent | acetonitrile methanol | C(C)#N.CO
product | 1-[2-(1-pyrrolidinyl)-2-oxoethyl]-2-benzylpyridinium bromide | 1.45 g | [Br-].N1(CCCC1)C(C[N+]1=C(C=CC=C1)CC1=CC=CC=C1)=O | InChI=1S/C18H21N2O.BrH/c21-18(19-11-6-7-12-19)15-20-13-5-4-10-17(20)14-16-8-2-1-3-9-16;/h1-5,8-10,13H,6-7,11-12,14-15H2;1H/q+1;/p-1
